US09212182B2
A pressure tube was charged with (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (2.31 g, 7.37 mmol), 1-bromo-2-fluoro-4-iodo-5-methylbenzene (2.79 g, 8.84 mmol, Oakwood Chemicals), XantPhos (0.213 g, 0.369 mmol), Pd2(dba)3 (0.169 g, 0.184 mmol), and cesium carbonate (6.00 g, 18.43 mmol). The whole was purged with argon. Then toluene (14.74 ml) was added. The tube was sealed and heated in the heating block at 110° C. for 17 h. The mixture was cooled to room temperature, diluted with EtOAc, and filtered through celite with an aid of EtOAc. The filtrate was concentrated. The crude material was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (80 g), eluting with a gradient of 0% to 30% EtOAc in heptane, to provide (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-fluoro-2-methylphenyl)amino)phenyl)acrylate (3.19 g, 86% yield) as yellow solid. m/z (ESI) [M+H]+=500.0. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.12 (t, J=7.09 Hz, 3 H) 2.04 (s, 3 H) 4.04 (q, J=7.11 Hz, 2 H) 4.16 (s, 2 H) 6.27 (d, J=11.05 Hz, 1 H) 6.47 (d, J=15.94 Hz, 1 H) 6.78 (d, J=8.41 Hz, 1 H) 7.09-7.26 (m, 6 H) 7.34 (dd, J=8.02, 0.68 Hz, 1 H) 7.53-7.66 (m, 3 H).

reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 7.37 mmol, 2.31 g | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | 1-bromo-2-fluoro-4-iodo-5-methylbenzene | 8.84 mmol, 2.79 g | BrC1=C(C=C(C(=C1)C)I)F | C7H5BrFI
reactant | cesium carbonate | 18.43 mmol, 6.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.184 mmol, 0.169 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | XantPhos | 0.369 mmol, 0.213 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-fluoro-2-methylphenyl)amino)phenyl)acrylate | 3.19 g, 86% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)F)Br)C | C25H23BrFNO2S
